US07153854B2
To a solution of 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile (22 mg) in N,N-dimethylformamide (1 mL) were added 1N sodium hydroxide (0.12 mL) and 30% hydrogen peroxide (0.07 mL) at ambient temperature. After 1 hour stirring, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water three times and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel column chromatography (silica gel, 30 mL) eluting with hexane-ethyl acetate=5-1 and 0-1 to give 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzamide (18 mg, 78.0%) as an yellow solid.

reactant | 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile | 22 mg | C(C)C1=CC=C2N1N=C(C(=C2C2=CC=C(C#N)C=C2)C2=CC=C(C=C2)OC)C | C24H21N3O
reactant | sodium hydroxide | 1N, 0.12 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.07 mL | OO | H2O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzamide | 18 mg, 78.0% | C(C)C1=CC=C2N1N=C(C(=C2C2=CC=C(C(=O)N)C=C2)C2=CC=C(C=C2)OC)C | C24H23N3O2
